* C:\Users\Male\Desktop\TC\TP2\EJ1\simulacion_pcb\Circuito 2\Caso 2\ej1_circ2_caso2.asc
R2 vout N002 2.5k
R4 N001 0 100k
V1 0 vee 15
V2 vcc 0 15
v3 v1 0 SINE(0 0.2) AC 0.2 Rser=50
R3 vin N001 25k
R1 N002 0 25k
XU2 N001 N002 vcc vee vout LM324
R5 vin v1 33k
R6 v1 0 10Meg
R7 vin 0 10Meg
C1 v1 0 12p
C2 vin 0 12p
.ac dec 10 10 100000000
.lib C:\Users\Male\Desktop\TC\TP2\EJ1\simulacion_pcb\Circuito 1\Caso 1\LM324.mod.txt
.backanno
.end
